US05171860
Step B 3,4-Dihydroxy-5-cyanoisothiazole-1,1-dioxide disilver salt
To a solution of disodium 3,4-dihydroxy-5-cyanoisothiazole-1,1-dioxide (7.4 g, 34 mmol) in water (60 ml) there was added a solution of silver nitrate (11.5 g, 68 mmol) in water (40 ml). The resulting suspension was stirred for 2-3 hours and the precipitate collected by filtration and washed with ethanol, diethyl ether and dried to give 11.4 g of title compound which was used without further purification.

reactant | disodium 3,4-dihydroxy-5-cyanoisothiazole-1,1-dioxide | 34 mmol, 7.4 g | OC1=NS(C(=C1O)C#N)(=O)=O.[Na].[Na]
reactant | silver nitrate | 68 mmol, 11.5 g | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 60 ml | O | H2O
solvent | water | 40 ml | O | H2O
product | 3,4-Dihydroxy-5-cyanoisothiazole-1,1-dioxide disilver salt | 11.4 g | [Ag].[Ag].OC1=NS(C(=C1O)C#N)(=O)=O | InChI=1S/C4H2N2O4S.2Ag/c5-1-2-3(7)4(8)6-11(2,9)10;;/h7H,(H,6,8);;
